US06239130B1
25.4 g (184 mmol) of 3-arninoisonicotinic acid in 600 ml of dioxane are introduced into a reactor, and 184 ml of IN NaOH solution are then added. The mixture is cooled with stiring to 5° C. and 60.24 g (236 mmol) of di-t-butyl dicarbonate are then added dropwise. The mixture is then maintained for 4 h at 20-25° C. and thereafter 38.6 g (200 mmol) of citric acid are added portionwise. The solvents are distilled off and the residue is taken up with 500 ml of water. The insoluble matter is filtered off, washed with water and then dried under vacuum at 50° C. 36.5 g of 3-(t-butyloxycarbonylarnino)isonicotinic acid are obtained. Yld=81%—TLC (D/M30): Rf=0.45.

reactant | 3-arninoisonicotinic acid | 184 mmol, 25.4 g | NC1=C(C(=O)O)C=CN=C1 | C6H6N2O2
reactant | di-t-butyl dicarbonate | 236 mmol, 60.24 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | citric acid | 200 mmol, 38.6 g | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dioxane | 600 ml | O1CCOCC1 | C4H8O2
solvent | NaOH | [OH-].[Na+]
product | 3-(t-butyloxycarbonylarnino)isonicotinic acid | 36.5 g | C(C)(C)(C)OC(=O)NC1=C(C(=O)O)C=CN=C1 | C11H14N2O4
